US07923450B2
a) 2-(2,5-Dichloro-phenyl)-cycloheptanol
1.6 N Butyllithium-hexane solution (12.5 mL, 20 mmol) was added at −75° C. over 15 min to a solution of 2-bromo-1,4-dichloro-benzene (4.52 g, 20 mmol) in diethyl ether (50 mL). After stirring for 5 min, 8-oxa-bicyclo[5.10]octane (2.25 g, 20 mmol) was added, and subsequently, boron trifluoride etherate (2.51 mL, 20 mmol) was added dropwise over 0.5 h to the reaction mixture. Stirring was continued for 0.5 h at −75° C. The temperature was then raised to −30° C. and saturated aqueous ammonium chloride solution was added. After being stirred for 5 min, the mixture was diluted with water. The organic layer was separated, washed with water, and dried over sodium sulfate. Solvents were removed under reduced pressure and the remaining oil was purified by column chromatography on silica gel using heptane/0-20% ethyl acetate as eluent to give the title compound (3.55 g, 68%) as a pale-yellow oil. MS EI (m/e): 258.1 [(M)+].

reactant | Butyllithium hexane | 20 mmol, 1.6 N, 12.5 mL | C(CCC)[Li].CCCCCC
reactant | 2-bromo-1,4-dichloro-benzene | 20 mmol, 4.52 g | BrC1=C(C=CC(=C1)Cl)Cl | C6H3BrCl2
reactant | boron trifluoride etherate | 20 mmol, 2.51 mL | B(F)(F)F.CCOCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-(2,5-Dichloro-phenyl)-cycloheptanol | 3.55 g, 68% | ClC1=C(C=C(C=C1)Cl)C1C(CCCCC1)O | C13H16Cl2O
